US09238644B2
(a) tert-Butyl 4-(5-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-methylpyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (A45)
A mixture of 1-(2-(2-(2-chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide A40 (0.240 g, 0.761 mmol), tert-butyl 4-(5-aminopyridin-2-yl)piperidine-1-carboxylate (0.422 g, 1.52 mmol), Pd(OAc)2 (0.003 g, 0.015 mmol), Xantphos (0.018 g, 0.030 mmol) and Cs2CO3 (0.744 g, 2.28 mmol) in dioxane (8 mL) was bubbled with N2 for 10 minutes and then stirred in the microwave at 120° C. for 20 minutes. The volatiles were removed in vacuo and the residue was adsorbed onto SiO2 and purified by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C. then 0-20% MeOH in EtOAc) to give the title compound A45 as a white solid (0.212 g, 50%). LCMS-D: rt 3.20 min; m/z 557 [M+H]+.

reactant | 1-(2-(2-(2-chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N)C | C17H18ClN3O
reactant | tert-butyl 4-(5-aminopyridin-2-yl)piperidine-1-carboxylate | 1.52 mmol, 0.422 g | NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | Xantphos | 0.030 mmol, 0.018 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 2.28 mmol, 0.744 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.015 mmol, 0.003 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 4-(5-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-methylpyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2C)NC=2C=CC(=NC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C32H40N6O3
